US06987114B1
1-(2,5-Difluorobenzyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 2,5-difluorobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (205 mg, yield: 49.2%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | 2,5-difluorobenzyl bromide | FC1=C(CBr)C=C(C=C1)F | C7H5BrF2
product | 1-(2,5-Difluorobenzyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 205 mg, yield: 49.2% | FC1=C(CN2C(NC(C(=C2SC2=CC(=CC(=C2)C)C)C(C)C)=O)=O)C=C(C=C1)F | C22H22F2N2O2S
